US07214835B2
An acetone (80 ml) solution of 1,7,8-trifluoro-2-naphthol (15 g), potassium carbonate (16 g), and ethyl iodide (26 g) was stirred for 10 hours at room temperature. Toluene (200 ml) was added in this reaction solution. The organic layer was removed, and the aqueous layer was extracted with toluene. The organic layers were combined, washed with brine, and concentrated. The residue was evaporated under reduced pressure, and 2-ethoxy-1,7,8-trifluoronaphthalene was obtained.

reactant | acetone | 80 ml | CC(=O)C | C3H6O
reactant | 1,7,8-trifluoro-2-naphthol | 15 g | FC1=C(C=CC2=CC=C(C(=C12)F)F)O | C10H5F3O
reactant | potassium carbonate | 16 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 26 g | C(C)I | C2H5I
solvent | Toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-ethoxy-1,7,8-trifluoronaphthalene | C(C)OC1=C(C2=C(C(=CC=C2C=C1)F)F)F | C12H9F3O
